US05688792
(S)-N-[[3-[3-fluoro-4-(1-oxothiomorpholin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
Sodium metaperiodate (42 mg, 0.196 mmol) was dissolved in water (1 mL) and then cooled to 0° C. (ice bath). Next, the N-[[3-[3-fluoro-4-(4-thiomorpholinyl) phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (66 mg, 0.187 mmol) was added. Methanol (3 mL) was added to increase solubility. The reaction was stirred at 0° C. for an additional 4 hours under N2 before being stoppered and stored in the freezer (65 hours). The reaction was filtered through a medium-porosity sintered glass funnel, rinsing the flask and filter cake with CHCl3 (5 mL). The filtrate was transferred to a separatory funnel, the layers separated, and the water layer further extracted with more CHCl3 (3×5 mL). The organic layers were combined, dried over anhydrous Na2SO4, filtered and then concentrated under reduced pressure to yield 80 mg of a gummy solid. The material was chromatographed on silica gel (10 g silica, packed with 10% CH3CN/CHCl3), eluting with a gradient of 1-5% MeOH in 10% CH3CN/CHCl3 to give 49 mg (71%) of the title compound as an off-white solid with amp of 159°-161° C. and a HRMS (M+) calculated for C16H20N3O4FS 369.1158, found 369.1182.

reactant | Sodium metaperiodate | 0.196 mmol, 42 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | N-[[3-[3-fluoro-4-(4-thiomorpholinyl) phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.187 mmol, 66 mg | FC=1C=C(C=CC1N1CCSCC1)N1C(OC(C1)CNC(C)=O)=O | C16H20FN3O3S
reactant | Methanol | 3 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | (S)-N-[[3-[3-fluoro-4-(1-oxothiomorpholin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 80 mg | FC=1C=C(C=CC1N1CCS(CC1)=O)N1C(O[C@H](C1)CNC(C)=O)=O | C16H20FN3O4S
